US09315521B2
2-{[(2-ethylpyridin-3-yl)methyl]sulfanyl)-6-(trifluoromethyl)pyrimidin-4-ol (218 mg, 694 μmol) was stirred in methanol (30 mL), and a solution of 4 N HCl in dioxane (260 μL, 1.04 mmol) was dropwise added at 0° C. The mixture was stirred for 30 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford 2-{[(2-ethylpyridin-3-yl)methyl]sulfanyl)-6-(trifluoromethyl)pyrimidin-4-ol hydrochloride (225 mg, 92% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.28 (t, J=7.6 Hz, 3H), 3.11-3.17 (m, 2H), 4.58 (s, 2H), 6.65 (s, 1H), 7.77 (q, J=5.9 Hz, J=1.8 Hz, 1H), 8.49 (d, J=7.8 Hz, 1H), 8.39 (d, J=5.5 Hz 1H).

reactant | 2-{[(2-ethylpyridin-3-yl)methyl]sulfanyl)-6-(trifluoromethyl)pyrimidin-4-ol | 694 μmol, 218 mg | C(C)C1=NC=CC=C1CSC1=NC(=CC(=N1)O)C(F)(F)F | C13H12F3N3OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 1.04 mmol, 260 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 30 mL | CO | CH4O
product | 2-{[(2-ethylpyridin-3-yl)methyl]sulfanyl)-6-(trifluoromethyl)pyrimidin-4-ol hydrochloride | 225 mg, 92% yield | Cl.C(C)C1=NC=CC=C1CSC1=NC(=CC(=N1)O)C(F)(F)F | InChI=1S/C13H12F3N3OS.ClH/c1-2-9-8(4-3-5-17-9)7-21-12-18-10(13(14,15)16)6-11(20)19-12;/h3-6H,2,7H2,1H3,(H,18,19,20);1H
